US05916898
Sodium hydride (3.15 g, 60%) was added in portions to a mixture of 2-(2-methoxyethoxy)ethanol (15 ml) and DMF (200 ml). The mixture was stirred for approximately 30 minutes until effervescence ceased. 3-(Imidazol-1-ylcarbonyl)-4-oxo-3,4-dihydro-1,10-phenanthroline (21.05 g) was added and the mixture stirred for 18 hours. The mixture was acidified to pH 5-6 with acetic acid, and evaporated to dryness under reduced pressure. Water (50 ml) was added and the mixture extracted with dichloromethane. The organic layer was washed with brine, dried (MgSO4) and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography on silica using dichloromethane, followed by a 24:1:0.1 mixture of dichloromethane methanol : triethylamine as eluant. The product so obtained was triturated with ethyl acetate to give 3-[2-(2-methoxyethoxy)ethoxycarbonyl]-4-oxo-3,4-dihydro-1,10-phenanthroline in 68% overall yield, mp 164-165° C.

reactant | Sodium hydride | 3.15 g | [H-].[Na+]
reactant | 2-(2-methoxyethoxy)ethanol | 15 ml | COCCOCCO | C5H12O3
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | 3-(Imidazol-1-ylcarbonyl)-4-oxo-3,4-dihydro-1,10-phenanthroline | 21.05 g | N1(C=NC=C1)C(=O)C1C=NC2=C3N=CC=CC3=CC=C2C1=O | C16H10N4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-(2-methoxyethoxy)ethoxycarbonyl]-4-oxo-3,4-dihydro-1,10-phenanthroline | COCCOCCOC(=O)C1C=NC2=C3N=CC=CC3=CC=C2C1=O | C18H18N2O5
